US06468995B1
Under nitrogen atmosphere, 78.7 g of triphenylphosphine (300 m mol) and 47.2 ml of diethyl azodicarboxylate (300 m mol) were added to a stirred solution of 22.4 g of 4-hydroxymethyl-1-methylpyrazole (200 m mol) in THF (250 ml) at 5° C. After stirring for 1 hour at the same temperature, 42.3 ml of thiobenzoic acid (360 m mol) was added slowly to the mixture. The mixture was poured into a mixture of water and ethyl acetate, while Ph was adjusted to 9.5 with 30% potassium bicarbonate. Aqueous layer was separated, the organic layer was washed with brine, dried over magnesium sulfate. After filtration of the mixture, the filtrate was concentrated in vacuo, and the residue was purified on silica gel (eluent: n-hexane-ethyl acetate) to afford 4-(benzoylthiomethyl)-1-methylpyrazole (18.3 g).

reactant | triphenylphosphine | 78.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 47.2 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-hydroxymethyl-1-methylpyrazole | 22.4 g | OCC=1C=NN(C1)C | C5H8N2O
reactant | thiobenzoic acid | 42.3 ml | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-(benzoylthiomethyl)-1-methylpyrazole | 18.3 g | C(C1=CC=CC=C1)(=O)SCC=1C=NN(C1)C | C12H12N2OS
